US07687490B2
A solution (24 ml) of 2.39 ml of chloromethyl chloroformate in toluene was added dropwise to 46 ml of a solution of 9.11 ml of cis-2,6-dimethylpiperidine in toluene under ice cooling over a period of 10 min, and the mixture was stirred at room temperature for 16 hr. 1 N hydrochloric acid (60 ml) was added thereto, followed by separation. The organic layer was washed with 60 ml of a 5% aqueous sodium hydrogencarbonate solution and 60 ml of 20% brine, was dried over anhydrous magnesium sulfate, and was filtered, and the solvent was removed by distillation under the reduced pressure to give 12.7 g of (cis-2,6-dimethylpiperidin-1-yl)carbonyloxymethyl chloride.

reactant | chloromethyl chloroformate | 24 ml | ClC(=O)OCCl | C2H2Cl2O2
reactant | cis-2,6-dimethylpiperidine | 9.11 ml | C[C@@H]1N[C@@H](CCC1)C | C7H15N
reactant | hydrochloric acid | 1 N, 60 ml | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (cis-2,6-dimethylpiperidin-1-yl)carbonyloxymethyl chloride | 12.7 g | C[C@@H]1N([C@@H](CCC1)C)C(=O)OCCl | C9H16ClNO2
